US05705517
Ethyl 2-[(2'-cyanobiphenyl-4-yl)methyl]amino-3-nitrobenzoate
To a solution of ethyl 2-t-butoxycarbonylamino-3-nitrobenzoate (20 g) in tetrahydrofuran (50 ml) was added, while stirring under ice-cooling, sodium hydride (60% dispersion in mineral oil, 2.8 g). The mixture was stirred at room temperature for 20 minutes and to the mixture were then added 4-(2-cyanophenyl)benzyl bromide (18 g) and potassium iodide (360 mg), followed by heating for 10 hours under reflux. The solvent was evaporated to dryness and the residue was partitioned between water (250 ml) and ether (200 ml). The organic layer was washed with water, dried and concentrated to give a yellow syrup. The syrup was dissolved in a mixture of trifluoroacetic acid (60 ml) and methylene chloride (40 ml) and the solution was stirred for one hour at room temperature. The reaction mixture was concentrated to dryness and to the residue was added ethyl ether (200 ml) to give crystals. The crystals were collected by filtration, washed with ether to give pale yellow crystals (22.1 g, 85%), m.p. 118°-119° C.

reactant | ethyl 2-t-butoxycarbonylamino-3-nitrobenzoate | 20 g | C(C)(C)(C)OC(=O)NC1=C(C(=O)OCC)C=CC=C1[N+](=O)[O-] | C14H18N2O6
reactant | sodium hydride | 2.8 g | [H-].[Na+]
reactant | 4-(2-cyanophenyl)benzyl bromide | 18 g | C(#N)C1=C(C=CC=C1)C1=CC=C(CBr)C=C1 | C14H10BrN
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | trifluoroacetic acid | 60 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | potassium iodide | 360 mg | [I-].[K+]
product | Ethyl 2-[(2'-cyanobiphenyl-4-yl)methyl]amino-3-nitrobenzoate | 22.1 g, 85% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CNC1=C(C(=O)OCC)C=CC=C1[N+](=O)[O-] | C23H19N3O4
